US06645956B1
A solution of 2-acetyl-5-(4-fluorobenzyl)furan (10 g, 46 mmol) and trimethylsilylacetic acid ethyl ester (10.9 g, 68 mmol) in anhydrous THF (30 ml) was cooled at −20° C. To a solution was added anhydrous tetrabutylammoniumfluoride (0.2 g). The reaction mixture was gradually warmed up to room temperature and stirred for 15 minutes at 50° C. The THF was evaporated under reduced pressure. The residue was distilled under reduced pressure. The fraction showing b.p. 130° C. (0.5 mmHg) was collected to give [1-[5-(4-fluorobenzyl)furan-2-yl]vinyloxy]-trimethylsilane (11.7 g). Yield 88%.

reactant | 2-acetyl-5-(4-fluorobenzyl)furan | 46 mmol, 10 g | C(C)(=O)C=1OC(=CC1)CC1=CC=C(C=C1)F | C13H11FO2
reactant | trimethylsilylacetic acid ethyl ester | 68 mmol, 10.9 g | C(C)OC(C[Si](C)(C)C)=O | C7H16O2Si
solvent | THF | 30 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammoniumfluoride | 0.2 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | [1-[5-(4-fluorobenzyl)furan-2-yl]vinyloxy]-trimethylsilane | 11.7 g, Yield 88% | FC1=CC=C(CC2=CC=C(O2)C(=C)O[Si](C)(C)C)C=C1 | C16H19FO2Si
